US09023846B2
Pivaldehyde (1.63 mL, 15.0 mmol) was dissolved in anhydrous DMF (15 mL) and H2NOH.xH2O (0.860 mL of a 55% aqueous solution, 15.4 mmol) was added via syringe. The resulting mixture was stirred at room temperature for 1 h and NCS (2.06 g, 15.4 mmol) was added as a solid. The resulting mixture was stirred at room temperature for 1 h and DCM (50 mL) was added. The resulting solution was placed in a dropping funnel and added dropwise over 4 h to a stirred DCM (40 mL) solution of ethyl cis-beta-cyanoacrylate (1.98 mL, 16.5 mmol) and TEA (4.18 mL, 30.0 mmol). After completion of addition, the resulting mixture was stirred for 8 h at room temperature and then concentrated under reduced pressure. The resulting residue was dissolved in DCM (50 mL), washed with H2O (3×30 mL) and brine (30 mL), and dried over anhydrous MgSO4 and filtered. The solvent was removed under reduced pressure. The resulting residue was chromatographed on a 40-g SiO2 pre-packed column eluting with 0:1-3:7 EtOAc/hexanes to yield a mixture (˜1:1.6 as measured by 1H-NMR) of 3-tert-Butyl-4-cyano-4,5-dihydro-isoxazole-5-carboxylic acid ethyl ester contaminated with ethyl cis-beta-cyanoacrylate. 1H-NMR (400 MHz, CDCl3) δ: 5.22 (d, J=5.1 Hz, 1H), 4.55 (d, J=5.1 Hz, 1H), 4.25-4.32 (m, 2H), 1.35 (s, 9H), 1.31-1.36 (t, J=7.1 Hz, 3H).

reactant | Pivaldehyde | 15.0 mmol, 1.63 mL | CC(C)(C)C=O | C5H10O
reactant | NCS | 15.4 mmol, 2.06 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | DCM | 50 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 40 mL | C(Cl)Cl | CH2Cl2
reactant | ethyl cis-beta-cyanoacrylate | 16.5 mmol, 1.98 mL | C(#N)\C=C/C(=O)OCC | C6H7NO2
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2NOH | NO | H3NO
product | 3-tert-Butyl-4-cyano-4,5-dihydro-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C(=NO1)C(C)(C)C)C#N | C11H16N2O3
